US03987158
1-(3-Methylphenoxy)propan-2-one (24.9 g.) and ethanol (100 ml.) were added to a solution of hydroxylamine hydrochloride (25 g.) and fused sodium acetate (25 g.) in water (110 ml.). The resulting solution was refluxed for 31/2 hours and evaporated to near dryness under reduced pressure. The residue was partitioned between water and ether. The ether extract was washed with water, dried over anhydrous potassium carbonate and evaporated. The residue was distilled to give a fraction, b.p. 159°-163°/12 mm. Redistillation gave 1-(3-methylphenoxy)propan-2-one oxime, b.p. 165°-167°/13 mm.

reactant | 1-(3-Methylphenoxy)propan-2-one | 24.9 g | CC=1C=C(OCC(C)=O)C=CC1 | C10H12O2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 25 g | Cl.NO
solvent | water | 110 ml | O | H2O
product | 1-(3-methylphenoxy)propan-2-one oxime | CC=1C=C(OCC(C)=NO)C=CC1 | C10H13NO2
